US05583130
Step B: 1-Bromo-2-(2-thienyl)benzene
A solution of 8.8 mL of isoamylnitrite (65.5 mmol) in 85 mL of thiophene under a nitrogen atmosphere was heated to 50° C. and treated dropwise with a solution of 7.5 g of 2-bromoaniline (43.5 mmol) dissolved in 20 mL of thiophene. After addition was complete, the temperature was raised to 90° C. After 90 minutes, no starting aniline was observed by thin layer chromatography (hexane/ether;100:5). The reaction mixture volume was reduced by atmospheric distillation. The residue was dissolved in ether and the organic layer was washed twice with water, dried over magnesium sulfate and evaporated under vacuum. The residue was dissolved in n-hexane/ether (100:5) and passed over silica gel, eluting with n-hexane/ether (100:5) to give 3.5 g (14.6 mmol, 34%) of the product, 1H NMR (200 MHz, CDCl3): 7.11 (m, 1H), 7.16 (dd, 1H), 7.27 (m, 2H), 7.37 (dd, 1H), 7.42 (dd, 1H), 7.66 (dd, 1H).

reactant | isoamylnitrite | 65.5 mmol, 8.8 mL | C(CC(C)C)ON=O | C5H11NO2
reactant | 2-bromoaniline | 43.5 mmol, 7.5 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | hexane ether | CCCCCC.CCOCC
reactant | thiophene | 85 mL | S1C=CC=C1 | C4H4S
reactant | thiophene | 20 mL | S1C=CC=C1 | C4H4S
product | 1-Bromo-2-(2-thienyl)benzene | 14.6 mmol, 3.5 g, 34% | BrC1=C(C=CC=C1)C=1SC=CC1 | C10H7BrS
